US09145433B2
A stirring solution of 6-bromoimidazo[1,2-a]pyridine-3-carbonitrile [JMC 54(7). 2455-2466; 2011] (1.0 g), EtOH (10 mL) and aq. NaOH (1.0 g, 10 mL) was heated at 100° C. After 12 h, the reaction mixture was cooled and concentrated to dryness by rotary evaporator under reduced pressure. Subsequently, the crude solid was diluted with water, cooled in ice-bath and acidified with conc. HCl till pH 4 while stirring. The resulting suspension was suction filtered and the solid was dried overnight. Subsequently, the collected solid was further dried over P2O5 under high vacuum to obtain 6-bromoimidazo[1,2-a]pyridine-3-carboxylic acid (0.91 g) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 13.27 (s, 1H), 9.36 (s, 1H), 8.24 (s, 1H), 7.77 (d, J=9.5 Hz, 1H), 7.67 (d, J=9.5, 1.7 Hz, 1H).

reactant | 6-bromoimidazo[1,2-a]pyridine-3-carbonitrile | 1.0 g | BrC=1C=CC=2N(C1)C(=CN2)C#N | C8H4BrN3
reactant | NaOH | 10 mL, 1.0 g | [OH-].[Na+]
reactant | EtOH | 10 mL | CCO | C2H6O
product | 6-bromoimidazo[1,2-a]pyridine-3-carboxylic acid | 0.91 g | BrC=1C=CC=2N(C1)C(=CN2)C(=O)O | C8H5BrN2O2
